US05136042
15.7 g (0.1 mole) of 2,4-dimethylthiazole-5-carboxylic acid were suspended in 300 ml of ethyl ether and 8 g (0.1 mole) of pyridine, followed by the dropwise addition of 12 g (0.1 mole) of thionyl chloride at -3° C. for 45 minutes. After completion of the reaction, filtration and concentrating were conducted to obtain 7.2 g pf 2.4-dimethylthiazole-5-carboxylic acid chloride. Its purity and yield were 85% and 35%, respectively.

reactant | 2,4-dimethylthiazole-5-carboxylic acid | 0.1 mole, 15.7 g | CC=1SC(=C(N1)C)C(=O)O | C6H7NO2S
reactant | pyridine | 0.1 mole, 8 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.1 mole, 12 g | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | 2.4-dimethylthiazole-5-carboxylic acid chloride | 7.2 g | CC=1SC(=C(N1)C)C(=O)Cl | C6H6ClNOS
